US05693842
80 g (0.34 mol) of dimethyl dimethylphosphinylmethylsuccinate are heated to reflux with a few drops of concentratedhydrochloric acid and 80 ml of water. Methanol slowly distils over a 70 cm silvered shell Vigreux column and at the same time a further 20 g of water are added dropwise. When the reaction is completed, the batch crystallizes. After addition of isopropanol, the mixture is stirred for several hours then filtered off by suction and dried. 65 g of dimethylphosphinylmethylsuccinic acid are obtained having a melting point of 139°-141° C. This corresponds to a yield of 92% of theory.

reactant | dimethyl dimethylphosphinylmethylsuccinate | 0.34 mol, 80 g | CP(=O)(C)CC(C(=O)OC)CC(=O)OC | C9H17O5P
solvent | water | 80 ml | O | H2O
product | dimethylphosphinylmethylsuccinic acid | 65 g, yield of 92% | CP(=O)(C)CC(C(=O)O)CC(=O)O | C7H13O5P
